US07696195B2
2.4a) (R)-2-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-1-(7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 120 mg (0.22 mmol) (R)-1-carboxy-2-(7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 85 mg (0.27 mmol) TBTU and 120 μL (0.86 mmol) triethylamine in 10 mL THF and 1 mL DMF was stirred for 1 h at RT, then combined with 90 mg (0.27 mmol) 1-benzyl-4-piperidin-4-yl-piperazine (used as the bishydrochloride salt) and stirred overnight at RT. The reaction solution was combined with 1 mL semisaturated NaHCO3 solution and extracted with 100 mL EtOAc. The organic phase was dried over Na2SO4, filtered and evaporated down i.vac.

reactant | (R)-1-carboxy-2-(7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.22 mmol, 120 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC=N3)C(=C1)C)C(=O)O)C=CC=C2 | C26H29N5O5
reactant | TBTU | 0.27 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.86 mmol, 120 μL | C(C)N(CC)CC | C6H15N
reactant | 1-benzyl-4-piperidin-4-yl-piperazine | 0.27 mmol, 90 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1CCNCC1 | C16H25N3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-2-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-1-(7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)CC1=CC=CC=C1)CC1=CC3=C(NC=N3)C(=C1)C)C=CC=C2 | C42H52N8O4
